US07265149B2
In analogy to the procedure described in example 20 a], 5-chloromethyl-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole (example 9 a]) was treated with sodium iodide in acetone to obtain 5-iodomethyl-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole as yellow solid which was used in the next step without further purification.

reactant | 5-chloromethyl-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole | ClCC1=CC(=NN1C)C1=CC=C(C=C1)C(F)(F)F | C12H10ClF3N2
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 5-iodomethyl-1-methyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazole | ICC1=CC(=NN1C)C1=CC=C(C=C1)C(F)(F)F | C12H10F3IN2
